US06306863B1
3-Methyl-1-(2-methylpropyl)-6-(1-naphthalenylmethyl)-5-[(2-pyridinyl)sulphinyl]-1H-pyrrolo[3,4-d]pyrimidine-2,4(3H,6H)-dione
Prepared from the compound of Example 20, 3-methyl-1-(2-methylpropyl)-6-(1-naphthalenylmethyl)-5-[(2-pyridinyl)thio]-1H-pyrrolo[3,4-d]pyrimidine-2,4(3H,6H)-dione and potassium peroxymonosulphate (commercially sold under the trade mark “OXONE”) following the method of Example 8 c).

reactant | 3-methyl-1-(2-methylpropyl)-6-(1-naphthalenylmethyl)-5-[(2-pyridinyl)thio]-1H-pyrrolo[3,4-d]pyrimidine-2,4(3H,6H)-dione | CN1C(N(C=2C(C1=O)=C(N(C2)CC2=CC=CC1=CC=CC=C21)SC2=NC=CC=C2)CC(C)C)=O | C27H26N4O2S
reactant | potassium peroxymonosulphate | S(=O)(=O)(O[O-])[O-].[K+].[K+]
reactant | OXONE | OOS(=O)[O-].[K+]
product | 3-Methyl-1-(2-methylpropyl)-6-(1-naphthalenylmethyl)-5-[(2-pyridinyl)sulphinyl]-1H-pyrrolo[3,4-d]pyrimidine-2,4(3H,6H)-dione | CN1C(N(C=2C(C1=O)=C(N(C2)CC2=CC=CC1=CC=CC=C21)S(=O)C2=NC=CC=C2)CC(C)C)=O | C27H26N4O3S
